US06465455B1
N-(5-benzamido-2-chlorophenyl)-3,4dimethoxybenzamide
Phosphoryl chloride (0.074 g) was added to a stirred mixture of 3,4-dimethoxybenzoic acid (0.088 g), N-(3-amino-4-chlorophenyl)benzamide (0.1 g) and pyridine (1 ml) which had been cooled to 0° C. The mixture was allowed to warm to ambient temperature and was stirred for 16 hours. The mixture was poured into 1N aqueous hydrochloric acid solution and the resultant solid was isolated, washed with a saturated aqueous sodium bicarbonate solution and dried under vacuum at 55° C. There was thus obtained the title compound (0.088 g);

reactant | Phosphoryl chloride | 0.074 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3,4-dimethoxybenzoic acid | 0.088 g | COC=1C=C(C(=O)O)C=CC1OC | C9H10O4
reactant | N-(3-amino-4-chlorophenyl)benzamide | 0.1 g | NC=1C=C(C=CC1Cl)NC(C1=CC=CC=C1)=O | C13H11ClN2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | N-(5-benzamido-2-chlorophenyl)-3,4dimethoxybenzamide | 0.088 g | C(C1=CC=CC=C1)(=O)NC=1C=CC(=C(C1)NC(C1=CC(=C(C=C1)OC)OC)=O)Cl | C22H19ClN2O4
